US05364844
(2S, 4S, 5S)-5-(t-Butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-ethyl-1-hydroxypropyl)-N-methylhexanamide
A solution of 361 mg (0.91 mmoles) of (3S, 5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]-3-(1-ethyl-1-hydroxypropyl)dihydrofuran-2(3H)-one (prepared as described in Preparation 21) in 10 ml of methanol was saturated with gaseous methylamine by passing the gas through the solution whilst ice-cooling, and then the flask containing the reaction mixture was stoppered tightly and allowed to stand at room temperature overnight. The reaction mixture was then concentrated by evaporation under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (using a 20:1 by volume mixture of methylene chloride and methanol as eluent), followed by recrystallization from hexane, to give 372 mg (yield 96%) of the title compound as white crystals, melting at 152°-155° C.

reactant | (3S, 5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]-3-(1-ethyl-1-hydroxypropyl)dihydrofuran-2(3H)-one | 0.91 mmoles, 361 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C(CC)(O)CC | C22H39NO5
reactant | methylamine | CN | CH5N
solvent | methanol | 10 ml | CO | CH4O
product | (2S, 4S, 5S)-5-(t-Butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-ethyl-1-hydroxypropyl)-N-methylhexanamide | 372 mg, yield 96% | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NC)C(CC)(O)CC)O)CC1CCCCC1 | C23H44N2O5
